US07288544B2
2) Synthesis of 2-acetyl-3-(3-chlorophenyl)-N-(3-phenyl-2-propen-1-yl) acrylamide:
30.0 mg (1.38 mmol) of 3-oxo-N-(3-phenyl-2-propen-1-yl) butylamide and 194 mg (1.38 mmol) of 3-chlorobenzaldehyde were dissolved in 20 ml of 2-propanol. 4.14 mg (0.0690 mmol) of piperidine and 5.67 mg (0.0690 mmol) of acetic acid were added thereto and-stirred at room temperature for 2 days. After the solvent was evaporated under reduced pressure, ethyl acetate was added to the reaction mixture. After washing with 1 N hydrochloric acid and then with saturated aqueous sodium hydrogencarbonate solution, the organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1) to obtain the title compound.

reactant | 3-oxo-N-(3-phenyl-2-propen-1-yl) butylamide | 1.38 mmol, 30.0 mg | O=C(CC[N-]CC=CC1=CC=CC=C1)C
reactant | 3-chlorobenzaldehyde | 1.38 mmol, 194 mg | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | piperidine | 0.0690 mmol, 4.14 mg | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.0690 mmol, 5.67 mg | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | 2-acetyl-3-(3-chlorophenyl)-N-(3-phenyl-2-propen-1-yl) acrylamide | C(C)(=O)C(C(=O)NCC=CC1=CC=CC=C1)=CC1=CC(=CC=C1)Cl | C20H18ClNO2
